US07414050B2
e) 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-cyanoimino-hexahydro-pyrimidin-5-yl)-2-cyclohex-1-enyl-phenyl]-amide
To a solution of 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-amino-1-aminomethyl-ethyl)-2-cyclohex-1-enyl-phenyl]-amide (as prepared in the previous step, 15 mg, 0.030 mmol) in DCM (10 mL), dimethyl N-cyanodithioiminocarbonate (4.2 mg, 0.28 mmol) was added. The resulting solution was heated at reflux for 4 h. The reaction mixture was allowed to cool to RT and was concentrated in vacuo. The residue obtained was purified on silica (20-100% EtOAc-hexane) to obtain the title compound (11 mg, 62%): Mass spectrum (ESI, m/z): Calcd. for C28H36N8O2Si, 545.3 (M+H). found 545.1.

reactant | 4-cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-amino-1-aminomethyl-ethyl)-2-cyclohex-1-enyl-phenyl]-amide | NCC(CN)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCCCC1 | C26H38N6O2Si
reactant | dimethyl N-cyanodithioiminocarbonate | 0.28 mmol, 4.2 mg | CSC(=NC#N)SC | C4H6N2S2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-Cyano-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carboxylic acid [4-(2-cyanoimino-hexahydro-pyrimidin-5-yl)-2-cyclohex-1-enyl-phenyl]-amide | 11 mg, 62% | C(#N)N=C1NCC(CN1)C1=CC(=C(C=C1)NC(=O)C=1N(C=C(N1)C#N)COCC[Si](C)(C)C)C1=CCCCC1 | C28H36N8O2Si
